US03940434
A solution of 5 g of sodium nitrite in 20 ml of water is slowly added dropwise at 0°C, whilst stirring, to a solution of 11 g of crude 3-amino-4-cycloheptyl-acetophenone in 70ml of concentrated hydrochloric acid. After completion of the addition the mixture is stirred for a further 30 minutes at 0°C. The reaction solution is then added dropwise at 0 to 5°C, whilst stirring, to a solution of 7 g of freshly prepared copper-(I) chloride in 30 ml of concentrated hydrochloric acid. After completion of the addition, the mixture is stirred for a further hour at room temperature and a further hour at 40 to 50°C. The reaction mixture is now extracted three times with 200 ml of ether at a time. The organic phases are successively washed with water, 2 N sodium hydroxide solution and again with water, dried over sodium sulphate and evaporated in vacuo. Distillation of the evaporation residue in a high vacuum yields crude 3-chloro-4-cycloheptyl-acetophenone in the fraction boiling at about 130°C/0.05 mm Hg.

reactant | sodium nitrite | 5 g | N(=O)[O-].[Na+]
reactant | 3-amino-4-cycloheptyl-acetophenone | 11 g | NC1CCCCCC1CC(=O)C1=CC=CC=C1 | C15H21NO
reactant | hydrochloric acid | 70ml | Cl | ClH
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
catalyst | copper-(I) chloride | [Cu]Cl
product | 3-chloro-4-cycloheptyl-acetophenone | ClC1CCCCCC1CC(=O)C1=CC=CC=C1 | C15H19ClO
